US06350771B1
A mixture of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (1.5 g), methyl isocyanate (0.705 g), and dibutyltin diacetate (2 drops) was stirred in dichloromethane at 20° C. in a sealed bottle for 2 days. The mixture was partitioned between water and dichloromethane, the organic layer dried (Na2SO4) and evaporated and the residue crystallized from ethyl acetate/hexane to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(N-methylcarbamoyl)oxime (1.22 g) m.p. 146-147° C. Compound 18.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 1.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
reactant | methyl isocyanate | 0.705 g | CN=C=O | C2H3NO
catalyst | dibutyltin diacetate | 2 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(N-methylcarbamoyl)oxime | 1.22 g | CNC(=O)ON=CC1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H12Cl2F3N5O3S
